US08957093B2
Step 2: Methyl 1-(4-bromobenzyl)-1H-indole-5-carboxylate
To a solution of methyl 1H-indole-5-carboxylate (1.09 g, 6.2 mmol, 1 equiv) and 1-(bromomethyl)-4-bromobenzene (1.70 g, 6.82 mmol, 1.1 equiv) in anhydrous DMF (30 mL) under argon atmosphere was added sodium hydride (500 mg, 12.4 mmol, 2 equiv) in small portions. The mixture was stirred 2 h at room temperature. The reaction mixture was then neutralized by addition of methanol and concentrated in vacuo. The residue was dissolved in AcOEt, washed with brine and dried over MgSO4. The crude was purified by flash chromatography (Hexane/AcOEt 7.5/2.5) to afford the title compound as a white powder (1.09 g, 3.2 mmol, 52%). ESI-MS (m/z): 344/346 [M+H]+.

reactant | methyl 1H-indole-5-carboxylate | 6.2 mmol, 1.09 g, 1 equiv | N1C=CC2=CC(=CC=C12)C(=O)OC | C10H9NO2
reactant | 1-(bromomethyl)-4-bromobenzene | 6.82 mmol, 1.70 g, 1.1 equiv | BrCC1=CC=C(C=C1)Br | C7H6Br2
reactant | sodium hydride | 12.4 mmol, 500 mg, 2 equiv | [H-].[Na+]
reactant | methanol | CO | CH4O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Methyl 1-(4-bromobenzyl)-1H-indole-5-carboxylate | 3.2 mmol, 1.09 g, 52% | BrC1=CC=C(CN2C=CC3=CC(=CC=C23)C(=O)OC)C=C1 | C17H14BrNO2
